US06441015B2
N-Cyclobutyl-5-[2,6-dimethyl-4-(1H-tetrazol-5-ylamino)-phenoxy]-2-hydroxy-N-methyl-benzamide
N-Cyclobutyl-5-[2,6-dimethyl-4-(1H-tetrazol-5-ylamino)-phenoxy]-2-hydroxy-N-methyl-benzamide was prepared from 5-(4-cyanoamino-2,6-dimethyl-phenoxy)-N-cyclobutyl-2-hydroxy-N-methyl-benzamide according to a procedure analogous to that described in EXAMPLE 1, Step C. Sodium azide (1.2 equiv) and ammonium chloride (10 equiv) were used, and the reaction was heated to 165° C. for 5 hours. After the reaction had been acidified, the aqueous mixture was washed with ethyl acetate (3×10 ml). The combined organic extracts were extracted with aqueous 1N HCl (3×50 ml), and brine (50 ml). The organic phase was dried over anhydrous Na2SO4, filtered, and concentrated. The residue was purified by preparative TLC (methanol:water:dichloromethane 15:1.5:83.5) to afford the title product of Example 6. MS (APCI+) Calc.: 408.5, Found: 409.2 (M+1).

reactant | 5-(4-cyanoamino-2,6-dimethyl-phenoxy)-N-cyclobutyl-2-hydroxy-N-methyl-benzamide | C(#N)NC1=CC(=C(OC=2C=CC(=C(C(=O)N(C)C3CCC3)C2)O)C(=C1)C)C | C21H23N3O3
reactant | Sodium azide | 1.2 equiv | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 10 equiv | [Cl-].[NH4+]
product | N-Cyclobutyl-5-[2,6-dimethyl-4-(1H-tetrazol-5-ylamino)-phenoxy]-2-hydroxy-N-methyl-benzamide | C1(CCC1)N(C(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)NC1=NN=NN1)C)O)=O)C | C21H24N6O3
